Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][c:2]1[cH:7][cH:6][cH:5][cH:4][cH:3]1.[OH:8][c:9]1[cH:10][cH:11][c:12]([OH:13])[c:14]([Br:15])[cH:16]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:13][c:12]1[cH:11][cH:10][c:9]([OH:8])[cH:16][c:14]1[Br:15],[OH:8][c:9]1[cH:10][cH:11][c:12]([OH:13])[c:14]([Br:15])[cH:16]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:13][c:12]1[cH:11][cH:10][c:9]([OH:8])[cH:16][c:14]1[Br:15],SN2_alcohol(thiol),"[(301, 13.1), ([13.1, 13], 13), (13, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[c:3]([CH3:4])[cH:5][c:6]([N:7]2[CH2:8][C@H:9]([CH3:10])[O:11][C@H:12]([CH3:13])[CH2:14]2)[cH:15][cH:16]1)=[O:17].[NH2:18][c:19]1[cH:20][n:21][c:22]([Cl:23])[c:24](-[c:25]2[n:26][c:27]3[cH:28][cH:29][cH:30][cH:31][c:32]3[nH:33]2)[cH:34]1>>[C:1]([c:2]1[c:3]([CH3:4])[cH:5][c:6]([N:7]2[CH2:8][C@H:9]([CH3:10])[O:11][C@H:12]([CH3:13])[CH2:14]2)[cH:15][cH:16]1)(=[O:17])[NH:18][c:19]1[cH:20][n:21][c:22]([Cl:23])[c:24](-[c:25]2[n:26][c:27]3[cH:28][cH:29][cH:30][cH:31][c:32]3[nH:33]2)[cH:34]1,[OH:101][C:1]([c:2]1[c:3]([CH3:4])[cH:5][c:6]([N:7]2[CH2:8][C@H:9]([CH3:10])[O:11][C@H:12]([CH3:13])[CH2:14]2)[cH:15][cH:16]1)=[O:17].[NH2:18][c:19]1[cH:20][n:21][c:22]([Cl:23])[c:24](-[c:25]2[n:26][c:27]3[cH:28][cH:29][cH:30][cH:31][c:32]3[nH:33]2)[cH:34]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]([CH3:4])[cH:5][c:6]([N:7]2[CH2:8][C@H:9]([CH3:10])[O:11][C@H:12]([CH3:13])[CH2:14]2)[cH:15][cH:16]1)(=[O:17])[NH:18][c:19]1[cH:20][n:21][c:22]([Cl:23])[c:24](-[c:25]2[n:26][c:27]3[cH:28][cH:29][cH:30][cH:31][c:32]3[nH:33]2)[cH:34]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (18, 1), ([1, 17], 17), (303, 18.1), ([18.1, 18], 18), (17, [17, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:17][cH:16][c:4]([C:5]([CH:6]2[CH2:7][CH2:8][CH2:9][N:10]([C:11]([CH3:12])=[O:13])[CH2:14]2)=[O:15])[cH:3][cH:2]1.[CH2:18]1[CH2:19][CH2:20][NH:21][CH2:22][CH2:23]1>>[c:1]1([N:21]2[CH2:20][CH2:19][CH2:18][CH2:23][CH2:22]2)[cH:2][cH:3][c:4]([C:5]([CH:6]2[CH2:7][CH2:8][CH2:9][N:10]([C:11]([CH3:12])=[O:13])[CH2:14]2)=[O:15])[cH:16][cH:17]1,[F:101][c:1]1[cH:2][cH:3][c:4]([C:5]([CH:6]2[CH2:7][CH2:8][CH2:9][N:10]([C:11]([CH3:12])=[O:13])[CH2:14]2)=[O:15])[cH:16][cH:17]1.[CH2:18]1[CH2:19][CH2:20][NH:21][CH2:22][CH2:23]1>>[c:1]1([N:21]2[CH2:20][CH2:19][CH2:18][CH2:23][CH2:22]2)[cH:2][cH:3][c:4]([C:5]([CH:6]2[CH2:7][CH2:8][CH2:9][N:10]([C:11]([CH3:12])=[O:13])[CH2:14]2)=[O:15])[cH:16][cH:17]1,SNAr(para),"[(21, 1), ([1, 17], [17, 16]), ([16, 4], [4, 5]), ([5, 15], 15), (15, [15, 5]), ([5, 4], [4, 16]), ([16, 17], [17, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[cH:3][c:4]([C:5]([CH3:6])=[O:7])[c:8]([OH:9])[cH:10][cH:11]1.[O:12]=[C:13]1[NH:14][CH2:15][CH2:16][NH:17]1>>[CH2:1]([c:2]1[cH:3][c:4]([C:5]([CH3:6])=[O:7])[c:8]([OH:9])[cH:10][cH:11]1)[N:14]1[C:13](=[O:12])[NH:17][CH2:16][CH2:15]1,[Cl:101][CH2:1][c:2]1[cH:3][c:4]([C:5]([CH3:6])=[O:7])[c:8]([OH:9])[cH:10][cH:11]1.[O:12]=[C:13]1[NH:14][CH2:15][CH2:16][NH:17]1>>[CH2:1]([c:2]1[cH:3][c:4]([C:5]([CH3:6])=[O:7])[c:8]([OH:9])[cH:10][cH:11]1)[N:14]1[C:13](=[O:12])[NH:17][CH2:16][CH2:15]1,SN2,"[(14, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH:1]([C:2](=[O:3])[CH:4]1[CH2:5][CH2:6]1)[c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1[F:13].[CH3:14][O:15][C:16](=[O:17])[CH2:18][n:19]1[n:20][n:21][cH:22][c:23]1/[CH:24]=[C:25]1\[CH2:26][NH:27][CH2:28][CH2:29][CH:30]1[S:31][C:32]([CH3:33])=[O:34]>>[CH:1]([C:2](=[O:3])[CH:4]1[CH2:5][CH2:6]1)([c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1[F:13])[N:27]1[CH2:26]/[C:25](=[CH:24]\[c:23]2[n:19]([CH2:18][C:16]([O:15][CH3:14])=[O:17])[n:20][n:21][cH:22]2)[CH:30]([S:31][C:32]([CH3:33])=[O:34])[CH2:29][CH2:28]1,[CH3:14][O:15][C:16](=[O:17])[CH2:18][n:19]1[n:20][n:21][cH:22][c:23]1/[CH:24]=[C:25]1\[CH2:26][NH:27][CH2:28][CH2:29][CH:30]1[S:31][C:32]([CH3:33])=[O:34].[Br:101][CH:1]([C:2](=[O:3])[CH:4]1[CH2:5][CH2:6]1)[c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1[F:13]>>[CH:1]([C:2](=[O:3])[CH:4]1[CH2:5][CH2:6]1)([c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1[F:13])[N:27]1[CH2:26]/[C:25](=[CH:24]\[c:23]2[n:19]([CH2:18][C:16]([O:15][CH3:14])=[O:17])[n:20][n:21][cH:22]2)[CH:30]([S:31][C:32]([CH3:33])=[O:34])[CH2:29][CH2:28]1,SN2,"[(27, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
